US05886181
4-Formyl-1-trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide.
49.60 g (416.9 mmol) of thionyl chloride was added over 40 min at 20° C. to a solution of 96.94 g (347.1 mmol) of 1-trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide in 465.9 g (10.1 mol) of formic acid. After a reaction time of 2 hours at 20° C., the mixture was concentrated on a rotary evaporator at 60° C. and 80 mbar and the brownish-black residue was taken up with 400 ml of ethyl acetate and 400 ml of water. The aqueous phase was washed again with twice 250 ml of ethyl acetate and the combined organic extracts were dried over 50.1 g of sodium sulfate. After filtration, the solution was concentrated on a rotary evaporator and the viscous residue was stirred with 250 ml of diisopropyl ether. The precipitated solid was filtered off, washed with twice 100 ml of diisopropyl ether and dried. The yield was 96.76 g (91 %) of colorless crystals. The melting point of the title compound was: 158.4° to 160.3° C. Other data concerning the title compound was:

reactant | thionyl chloride | 416.9 mmol, 49.60 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | 347.1 mmol, 96.94 g | C(C)(C)(C)NC(=O)C=1N(CCNC1)C(C(F)(F)F)=O | C11H16F3N3O2
reactant | formic acid | 10.1 mol, 465.9 g | C(=O)O | CH2O2
product | 4-Formyl-1-trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C=1N(CCN(C1)C=O)C(C(F)(F)F)=O | C12H16F3N3O3
